US08937071B2
To a solution of 2-(4-bromo-2,6-difluorophenyl)acetic acid (0.3 g, 1.195 mmol) in sulfurous dichloride (5 mL, 1.195 mmol) was added DMF (9.25 μL, 0.120 mmol). The resulting mixture was stirred at 60° C. After 2 h, LCMS analysis showed the starting material had disappeared and the solvent was removed in vacuo to give 2-(4-bromo-2,6-difluorophenyl)acetyl chloride (0.35 g, 0.832 mmol, 69.6% yield). To a solution of 4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)aniline (0.347 g, 1.113 mmol) and Et3N (0.225 g, 2.227 mmol) in DCM (30 mL) was added 2-(4-bromo-2,6-difluorophenyl)acetyl chloride (0.3 g, 1.113 mmol). The resulting mixture was stirred at 25° C. After LCMS analysis showed the starting material had disappeared, the mixture was washed with H2O (20 mL) and brine (20 mL). The organic layer was dried over Na2SO4, filtered and concentrated to give the crude product, which was purified by preparative TLC (PE/EA=3/1) to give N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)-2-(4-bromo-2,6-difluoro phenyl)acetamide (110 mg, 0.196 mmol, 17.6% yield): 1H NMR (400 MHz, CD3OD) δ 7.81 (d, J=2.8 Hz, 1H), 7.68 (d, J=2.4 Hz, 1H), 7.32-7.25 (m, 7H), 7.15 (d, J=8.8 Hz, 1H), 4.61 (s, 2H), 4.23 (t, J=4.6 Hz, 2H), 3.84 (t, J=4.6 Hz, 2H), 3.77 (s, 2H); ES-LCMS m/z 546.0 (M+H).

reactant | 4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)aniline | 1.113 mmol, 0.347 g | C(C1=CC=CC=C1)OCCOC1=C(C=C(N)C=C1)C(F)(F)F | C16H16F3NO2
reactant | Et3N | 2.227 mmol, 0.225 g | CCN(CC)CC | C6H15N
reactant | 2-(4-bromo-2,6-difluorophenyl)acetyl chloride | 1.113 mmol, 0.3 g | BrC1=CC(=C(C(=C1)F)CC(=O)Cl)F | C8H4BrClF2O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)-2-(4-bromo-2,6-difluoro phenyl)acetamide | 0.196 mmol, 110 mg, 17.6% yield | C(C1=CC=CC=C1)OCCOC1=C(C=C(C=C1)NC(CC1=C(C=C(C=C1F)Br)F)=O)C(F)(F)F | C24H19BrF5NO3
